### PR TITLE
Use `Num.bound`

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Given `R : archiNumDomainType` and `x : R`, if we need an upper bound of `x` of type `nat`, what we need is often `Num.bound` (https://github.com/math-comp/math-comp/pull/1510#issuecomment-3611733949):
```rocq
Definition bound (x : R) := (truncn `|x|).+1.
```

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- ~[ ] added corresponding documentation in the headers~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/normedtype_theory/normed_module.v [hunk 1]
```diff
@@ -1998,7 +1998,7 @@ Lemma compact_bounded (K : realType) (V : normedModType K) (A : set V) :
 Proof.
 rewrite compact_cover => Aco.
 have covA : A `<=` \bigcup_(n : int) [set p | `|p| < n%:~R].
-  by move=> p _; exists (floor `|p| + 1) => //=; rewrite floorD1_gt.
+  by move=> p _; exists (truncn `|p|).+1; rewrite //= truncnS_gt.
```
Comment (pi8027) [inline theories/normedtype_theory/normed_module.v:2001]: We cannot use `Num.bound` here (yet) because `p` is in a normed module.

**Comment by pi8027** [comment]
Thanks. I will add a changelog entry and merge.

**Comment by CohenCyril** [comment]
> Thanks. I will add a changelog entry and merge.

I have one ready, if you just allow me
